US05187160
5-Amino-1-(3-hydroxypropyl)pyrazole (5.3 g) was added to a mixture of acetic anhydride (8.86 ml) and formic acid (7.08 ml) under ice-cooling. The mixture was stirred for two hours at room temperature. The reaction mixture was added to a mixture of ice-water (30 ml), ethyl acetate (30 ml) and tetrahydrofuran (60 ml), and an aqueous solution of potassium carbonate was added thereto to adjust the pH of the mixture to 7. The organic layer was separated and dried over magnesium sulfate. The magnesium sulfate was filtered off, and the filtrate was evaporated under reduced pressure to give 5-formamido-1-(3-formyloxypropyl)pyrazole (6.74 g).

reactant | 5-Amino-1-(3-hydroxypropyl)pyrazole | 5.3 g | NC1=CC=NN1CCCO | C6H11N3O
reactant | acetic anhydride | 8.86 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | formic acid | 7.08 ml | C(=O)O | CH2O2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | 5-formamido-1-(3-formyloxypropyl)pyrazole | 6.74 g | C(=O)NC1=CC=NN1CCCOC=O | C8H11N3O3
